US04175203
A solution of ethyl 4-(4-acetyl-4-ethoxycarbonyl-8-acetoxytridec-6-en-1-yl)benzoate (50.2 g., 0.1 mole) and sodium hydroxide (28.0 g., 0.7 mole) in water (300 ml.) and ethanol (350 ml.) is boiled under reflux for 3 hours. Solvents are removed under reduced pressure, the residue is dissolved in water, and the solution extracted with ether. The aqueous layer is acidified with concentrated hydrochloric acid to the Congo Red endpoint. The crude product separates as an oil. It is isolated in pure condition by column chromatography on silica gel with 4% methanol in chloroform as the eluant. 4-(4-Acetyl-8-hydroxytridec-6-en-1-yl)benzoic acid is obtained as a yellow, very viscous oil.

reactant | ethyl 4-(4-acetyl-4-ethoxycarbonyl-8-acetoxytridec-6-en-1-yl)benzoate | 0.1 mole, 50.2 g | C(C)(=O)C(CCCC1=CC=C(C(=O)OCC)C=C1)(CC=CC(CCCCC)OC(C)=O)C(=O)OCC | C29H42O7
reactant | sodium hydroxide | 0.7 mole, 28.0 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 4-(4-Acetyl-8-hydroxytridec-6-en-1-yl)benzoic acid | C(C)(=O)C(CCCC1=CC=C(C(=O)O)C=C1)CC=CC(CCCCC)O | C22H32O4
